US07525717B2
1-Methyl-1H,1′H-2,2′-bibenzimidazole
To a flask were added 1.2 g 1H,1′H-2,2′-bibenzimidazole, 0.45 g sodium hydroxide, 100 ml N,N-dimethylformamide and 1.4 g dimethylsulfate. The mixture was heated to 45 C under nitrogen for 16 hours and another 0.45 g sodium hydroxide and 2.8 g dimethylsulfate were added and the mixture was stirred at 45 C for 24 hours. Another 4.2 g of dimethylsulfate were added and the mixture was stirred at 45 C for 24 hours, then cooled to 22 C and quenched with 350 ml water. The off-white solid was filtered and washed with water. After dissolving the product in 125 ml hot ethanol, 44 ml water were added and the solution was cooled to 5 C, filtered, washed with 50% ethanol and dried leaving 0.5 g white solid.

reactant | 1H,1′H-2,2′-bibenzimidazole | 1.2 g | N1C(=NC2=C1C=CC=C2)C2=NC1=C(N2)C=CC=C1 | C14H10N4
reactant | sodium hydroxide | 0.45 g | [OH-].[Na+]
reactant | dimethylsulfate | 1.4 g | COS(=O)(=O)OC | C2H6O4S
reactant | sodium hydroxide | 0.45 g | [OH-].[Na+]
reactant | dimethylsulfate | 2.8 g | COS(=O)(=O)OC | C2H6O4S
reactant | dimethylsulfate | 4.2 g | COS(=O)(=O)OC | C2H6O4S
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-Methyl-1H,1′H-2,2′-bibenzimidazole | 0.5 g | CN1C(=NC2=C1C=CC=C2)C2=NC1=C(N2)C=CC=C1 | C15H12N4
